US03931218
A solution of 125 grams of tosyl-DL-alanyl chloride (A. F. Beecham, J. Am. Chem. Soc., 79, 325-7) in 800 ml. of dichloromethane was added with stirring to 73 grams of anhydrous ethylamine and 400 ml. of dichloromethane in a reaction flask equipped with a dry ice condenser. The mixture was refluxed 4 hours after addition was completed. The reaction mixture was extracted with water then dried over magnesium sulfate. The solvent was removed in vacuo. The residue was slurried with diethyl ether and filtered to obtain tosyl-DL-alanine ethylamide, m.p. 106°-107°C.

reactant | tosyl-DL-alanyl chloride | 125 grams | S(=O)(=O)(C1=CC=C(C)C=C1)NC(C)C(=O)Cl | C10H12ClNO3S
reactant | ethylamine | 73 grams | C(C)N | C2H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tosyl-DL-alanine ethylamide | C(C)NC(C(NS(=O)(=O)C1=CC=C(C)C=C1)C)=O | C12H18N2O3S
